US07176242B2
tert-Butyl (1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-[(3-isopropylbenzyl)amino]propylcarbamate
tert-Butyl (1S)-2-(3,5-difluorophenyl)-1-[(2S)-oxiran-2-yl]ethylcarbamate (2.0 g, 6.7 mmol) and 3-isopropylbenzylamine hydrochloride (2.5 g, 13.5 mmol) in isopropanol (60 mL) are refluxed 3 h. The reaction is cooled and stirred 16 h. The solution is concentrated under reduced pressure, redissolved in chloroform, washed with 1N hydrochloric acid, saturated sodium bicarbonate, brine, dried (sodium sulfate), filtered and concentrated under reduced pressure. Purification by flash chromatography (silica, 7% methanol/chloroform) gives the title compound in pure form. ESI MS m/z 449.3 [M+H]+.

reactant | tert-Butyl (1S)-2-(3,5-difluorophenyl)-1-[(2S)-oxiran-2-yl]ethylcarbamate | 6.7 mmol, 2.0 g | FC=1C=C(C=C(C1)F)C[C@@H]([C@@H]1OC1)NC(OC(C)(C)C)=O | C15H19F2NO3
reactant | 3-isopropylbenzylamine hydrochloride | 13.5 mmol, 2.5 g | Cl.C(C)(C)C=1C=C(CN)C=CC1
solvent | isopropanol | 60 mL | C(C)(C)O | C3H8O
product | tert-Butyl (1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-[(3-isopropylbenzyl)amino]propylcarbamate | FC=1C=C(C[C@@H]([C@@H](CNCC2=CC(=CC=C2)C(C)C)O)NC(OC(C)(C)C)=O)C=C(C1)F | C25H34F2N2O3
